US07378409B2
Preparation C13, Step 2: 4-Adamantan-1-yl-2,4-dioxo-butyric acid ethyl ester 7.80 g, 28 mmol, 1 eq.), hydrazine hydrate (1.36 mL, 28 mmol, 1 eq.) and ethanol (20 mL) were refluxed until reaction was complete by LCMS. Stripped off the ethanol, and extracted (3×) with ethyl acetate (50 mL). The organic layers were combined, dried and stripped to give 7.00 g of 5-adamantan-1-yl-2H-pyrazole-3-carboxylic acid ethyl ester as a yellow solid. MS found: (M+H)+=275.

reactant | 4-Adamantan-1-yl-2,4-dioxo-butyric acid ethyl ester | 28 mmol, 7.80 g, 1 eq. | C(C)OC(C(CC(=O)C12CC3CC(CC(C1)C3)C2)=O)=O | C16H22O4
reactant | hydrazine hydrate | 28 mmol, 1.36 mL, 1 eq. | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-adamantan-1-yl-2H-pyrazole-3-carboxylic acid ethyl ester | 7.00 g | C(C)OC(=O)C=1NN=C(C1)C12CC3CC(CC(C1)C3)C2 | C16H22N2O2
